US04500713
(B) 1,2,3,4-Tetrahydro-3-isoquinolinecarboxylic Acid
Phenylalanine (75 g) was refluxed with 488 ml of concentrated HCl and 165 ml of formalin for 30 minutes. Then a further 165 ml of HCl and 75 ml of formalin were added and the mixture refluxed for six more hours. After cooling, it was filtered, washed with a small amount of methanol, and dried overnight in a vacuum oven. This material was then treated for an hour with refluxing isopropanol and filtered after cooling to give 28 gms.

reactant | Phenylalanine | 75 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | HCl | 488 ml | Cl | ClH
reactant | formalin | 165 ml | C=O | CH2O
reactant | HCl | 165 ml | Cl | ClH
reactant | formalin | 75 ml | C=O | CH2O
product | 1,2,3,4-Tetrahydro-3-isoquinolinecarboxylic Acid | C1NC(CC2=CC=CC=C12)C(=O)O | C10H11NO2
